US09340538B2
(2R,3S)-4-((6-(2-bromo-4-fluorophenyl)-5-(methoxycarbonyl)-2-(thiazol-2-yl)-3,6-dihydropyrimidin-4-yl)methyl)-2-methylmorpholine-3-carboxylic acid
Methyl 4-(2-bromo-4-fluorophenyl)-6-(bromomethyl)-2-(thiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate (0.93 g, 1.9 mmol) was reacted with (2R,3S)-2-methyl morpholine-3-carboxylic acid (0.28 g, 1.9 mmol) according to the procedure as described in Example 34 to give the title compound as a yellow solid (0.52 g, 49%). The compound was characterized by the following spectroscopic data:

reactant | Methyl 4-(2-bromo-4-fluorophenyl)-6-(bromomethyl)-2-(thiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate | 1.9 mmol, 0.93 g | BrC1=C(C=CC(=C1)F)C1N=C(NC(=C1C(=O)OC)CBr)C=1SC=CN1 | C16H12Br2FN3O2S
reactant | (2R,3S)-2-methyl morpholine-3-carboxylic acid | 1.9 mmol, 0.28 g | C[C@@H]1[C@H](NCCO1)C(=O)O | C6H11NO3
product | (2R,3S)-4-((6-(2-bromo-4-fluorophenyl)-5-(methoxycarbonyl)-2-(thiazol-2-yl)-3,6-dihydropyrimidin-4-yl)methyl)-2-methylmorpholine-3-carboxylic acid | 0.52 g, 49% | BrC1=C(C=CC(=C1)F)C1C(=C(NC(=N1)C=1SC=CN1)CN1[C@@H]([C@H](OCC1)C)C(=O)O)C(=O)OC | C22H22BrFN4O5S
